US06855722B2
g) 3-Phenyl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid
A solution of 3-phenyl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid ethyl ester (2.14 g, 4.49 mmol) in a 2:1:0.2 THF/MeOH/H2O (67 mL) was treated with lithium hydroxide monohydrate (0.38 g, 9.00 mmol) at room temperature. The reaction was stirred for 20 h. The mixture was diluted with ethyl acetate, acidified to pH 4 (0.5 N HCl), washed with water and brine, dried and concentrated to afford a crude mixture (2.02 g), which was purified by column chromatography with silica gel (39:1 to 29:1 dichloromethane/MeOH) to give the title compound (1.31 g, 66% yield). 1H NMR (CDCl3) δ 10.5 (s, 1H), 7.44 (d, 1H, J=3.1 Hz), 7.20-7.00 (m, 7H), 6.76 (m, 1H), 6.53 (dd, 1H, J=2.3, 6.6 Hz), 6.41 (s, 1H), 6.19 (d, 1H, J=7.3 Hz), 6.07 (dd, 1H, J=4.3, 7.1 Hz), 3.68 (m, 1H), 3.52 (m, 1H), 3.33 (m, 3H), 3.25-3.09 (m, 2H), 2.58 (m, 3H), 1.77 (m, 3H). Mass Spectrum (LCMS, ESI) calculated for C27H28N3O3 442.2 (M+H); found 442.3.

reactant | 3-phenyl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid ethyl ester | 4.49 mmol, 2.14 g | C(C)OC(CC(N1C=CC2=CC(=CC=C12)OCCC1=NC=2NCCCC2C=C1)C1=CC=CC=C1)=O | C29H31N3O3
reactant | THF MeOH H2O | 67 mL | C1CCOC1.CO.O
reactant | lithium hydroxide monohydrate | 9.00 mmol, 0.38 g | O.[OH-].[Li+]
reactant | HCl | 0.5 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Phenyl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid | 1.31 g, 66% yield | C1(=CC=CC=C1)C(CC(=O)O)N1C=CC2=CC(=CC=C12)OCCC1=NC=2NCCCC2C=C1 | C27H27N3O3
